US08293909B2
5-bromo-2-(4-fluorophenyl)-N-methyl-1H-indole-3-carboxamide.
A suspension of ethyl 5-bromo-2-(4-fluorophenyl)-1H-indole-3-carboxylate (90 mg, 0.25 mmol) in 1,2-dichloroethane (3 mL) was cooled in an ice bath under an atmosphere of N2. A solution of boron tribromide in CH2Cl2 (1 M, 0.75 mL, 0.75 mmol) was added the reaction was allowed warm to r.t. under N2 over 4 h. Then the reaction was then quenched by the addition of a solution of methylamine in THF (2 M, 5 mL, 10 mmol). The reaction was partitioned between EtOAc and water, the organic phase was washed with water and brine, dried over Na2SO4, filtered, and concentrated to give a colorless oil. Et2O/hexanes was added and a white precipitate formed. The powder was collected by filtration, washed with Et2O, and air dried to give the title compound (60 mg, 70% yield). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.93 (s, 1H) 7.82 (d, J=1.83 Hz, 1H) 7.71-7.78 (m, 3H) 7.32-7.41 (m, 3H) 7.29 (dd, J=8.55, 1.83 Hz, 1H) 2.75 (d, J=4.58 Hz, 3H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters Micromass. LC/MS method: solvent A=5% CH3CN/95% H2O/10 mM NH4OAc, solvent B=95% CH3CN/5% H2O/10 mM NH4OAc, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=5 ml/min, column: XBridge C18 5 μm 4.6×50 mm; HPLC Rt=1.26, (ES+) m/z (MH+)=347, 349 (1:1 ratio).

reactant | ethyl 5-bromo-2-(4-fluorophenyl)-1H-indole-3-carboxylate | 0.25 mmol, 90 mg | BrC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)F)C(=O)OCC | C17H13BrFNO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | CH2Cl2 | 0.75 mmol, 1 M, 0.75 mL | C(Cl)Cl | CH2Cl2
reactant | methylamine | CN | CH5N
reactant | THF | 10 mmol, 2 M, 5 mL | C1CCOC1 | C4H8O
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 5-bromo-2-(4-fluorophenyl)-N-methyl-1H-indole-3-carboxamide | 60 mg, 70% yield | BrC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)F)C(=O)NC | C16H12BrFN2O
